US06297283B1
Preparation of N,N′-bis[5-(3,4,5-trimethoxyphenyl)penta-(2E,4E)-dienoyl]-2,3-diaminophenol:
A solution of 196 mg (0.23 mmol) of N,N′,O-tri[5-(3,4,5-trimethoxyphenyl)penta-(2E,4E)-dienoyl]-2,3-diaminophenol synthesized by the process described above in anhydrous methanol-tetrahydrofuran (3 ml-3 ml) was cooled in an ice bath. To the solution was added 19 mg (0.14 mmol) of potassium carbonate. The ice bath was removed, and the mixture was stirred for 1 hour at room temperature. Added to the reaction mixture were 0.5 ml of 1N hydrochloric acid and 5 ml of a saturated saline solution to conduct extraction with chloroform. An organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil (515 mg) was purified by column chromatography on silica gel, thereby obtaining 126 mg (yield: 90%) of crude crystals of the title compound. The crude crystals thus obtained were recrystallized from ethanol-ether, thereby obtaining a pale yellow crystalline powder.

reactant | N,N′,O-tri[5-(3,4,5-trimethoxyphenyl)penta-(2E,4E)-dienoyl]-2,3-diaminophenol | 0.23 mmol, 196 mg | COC=1C=C(C=C(C1OC)OC)/C=C/C=C/C(=O)NC1=C(C=CC=C1NC(\C=C\C=C\C1=CC(=C(C(=C1)OC)OC)OC)=O)OC(\C=C\C=C\C1=CC(=C(C(=C1)OC)OC)OC)=O | C48H50N2O13
reactant | potassium carbonate | 0.14 mmol, 19 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol tetrahydrofuran | 3 ml-3 ml | CO.O1CCCC1
product | N,N′-bis[5-(3,4,5-trimethoxyphenyl)penta-(2E,4E)-dienoyl]-2,3-diaminophenol | COC=1C=C(C=C(C1OC)OC)/C=C/C=C/C(=O)NC1=C(C=CC=C1NC(\C=C\C=C\C1=CC(=C(C(=C1)OC)OC)OC)=O)O | C34H36N2O9
